* OVERALL BEST CANDIDATE: 00_Phase_1_12V_to_9V_Device_Buck_g1_cand3_b8
* FITNESS SCORE: 0.7854
*
* Generated: 2026-05-31T22:13:54
* Constraint: Phase 1: 12V to 9V Device (Buck)
*   vin_min = 11
*   vin_max = 14
*   vout_target = 9
*   efficiency_target = 0.79
*   power_in = 15
* Candidate: 3 of 8
* Grouped name: g1_cand3
*
* 12V to 9V interleaved 2-phase buck
Vin in 0 12
M1 in gate1 sw1 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 47u
L2 sw2 out 47u
C1 out 0 220u
Rload out 0 0.545
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 5.8u 10u)
Vgate2 gate2 0 PULSE(0 12 5.8u 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
