* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_1
* Fitness: 0.9907
*
* --- Active Constraints ---
* _comment: Phase 1: 12V to 9V Device (Buck)
* vin_min: 11
* vin_max: 14
* vout_target: 9
* efficiency_target: 0.79
* power_in: 15
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 9.020723
* efficiency: 1.000000
* total_volume_cm3: 28.000000
* total_components: 7
* ============================

* 12V to 9V interleaved 2-phase buck
Vin in 0 14
M1 in gate1 sw1 sw1 NMOS W=1 L=1
M2 in gate2 sw2 sw2 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 100u
L2 sw2 out 100u
C1 out 0 220u
Rload out 0 0.545
Vgate1 gate1 sw1 PULSE(0 12 0 1n 1n 5.8u 10u)
Vgate2 gate2 sw2 PULSE(0 12 5.8u 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end